US09446130B2
To a 75 ml sealed vessel was charged with 7-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine (595 mg, 1.408 mmol) along with ammonia in IPA (2N, 0.704 ml, 1.408 mmol). The vessel was sealed with screw cap and heated in an oil bath of 120° C. for 18 hrs overnight. LC-MS showed complete conversion of starting material to product. The mixture was then cooled to room temperature, solid (gel) precipitated and was filtered, washed with IPA and dried to afford 1-bromo-3-(3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)imidazo[1,5-a]pyrazin-8-amine (250 mg). The filtrate was concentrated and the residue was purified by MPLC (12 g silica gel, 0 to 10% methanol in methylenechloride, 28 CV) to afford another batch of product. Totally 1-bromo-3-(3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)imidazo[1,5-a]pyrazin-8-amine (386 mg, 0.957 mmol, 68.0% yield) was obtained. LC-MS: C12H10BrF3N8,402. found 403.08 [M+H]+, RT=1.09 min.

reactant | 7-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine | 1.408 mmol, 595 mg | BrC=1N=C(N2C1C(=NC=C2)Cl)N2CC=1N(CC2)C(=NN1)C(F)(F)F | C12H8BrClF3N7
reactant | ammonia | N | H3N
reactant | IPA | 1.408 mmol, 2N, 0.704 ml | CC(C)O | C3H8O
product | 1-bromo-3-(3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)imidazo[1,5-a]pyrazin-8-amine | 250 mg | BrC=1N=C(N2C1C(=NC=C2)N)N2CC=1N(CC2)C(=NN1)C(F)(F)F | C12H10BrF3N8
